US03952012
A mixture of 176 g. (0.7 mole) of ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate and 1760 ml. of 25% sodium hydroxide solution is heated under reflux for 3 hr. and then cooled and acidified with dilute hydrochloric acid. The precipitated solid is filtered and air dried. There is obtained 130 g. (98% yield) of 3-carboxy-1,4-dimethylpyrrole-2-acetic acid as a gray solid, m.p. 220°-222°C.

reactant | ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate | 0.7 mole | CN1C(=C(C(=C1)C)C(=O)OCC)CC(=O)OCC | C13H19NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 3-carboxy-1,4-dimethylpyrrole-2-acetic acid | 98% yield | C(=O)(O)C1=C(N(C=C1C)C)CC(=O)O | C9H11NO4
